** SNSPDLibrary **

* This library contains subckts and
* parameters needed to model an
* snspd. Specifically there are two
* nanowire models that simulate the
* superconducting nanowire's physical
* response to a photon.
*
* The nanowireBCF (Basic Curve Fit)
* model uses a group of switches
* parallel to a variable resitor
* to trace the i-v and pulse
* curves of a nanowire.
*
* The nanowireDynTherm (Dynamic Thermal)
* model uses sets of ancillary circuits to
* calculate and simulate the behavior
* of a nanowire. Each subcircuit is
* embedded into an snspd subcircuit that
* uses current pulses to simulate the
* arivals of a photons.

*************************************
* nanowireBCF                       *
*   basic curve-fitting-based model *
*   of a nanowire                   *
* gate: 1 uA in 2 ps pulse=photon   *
*   only connect to current source  *
* drain: one terminal of channel    *
* source: other terminal of channel *
*************************************

.subckt nanowireBCF gate gatereturn drain source
+Lind=100n Isw={Jc*width*thickness*C}
+width=100n thickness=4n sheetRes=400
+Tc=10.5 Tsub=2 Jc=50G C=1
  *Jc at T=Tsub in units of amps/m2
  *sheetRes has units of ohms/sq
  *Tc is critical temp and has units of K
  *Tsub is substrate temp and has units of K
  *C is constrition factor

*Dimensions
.PARAM length={width*Lind/inductivity}
.PARAM squares={length/width}

*Thermal Parameters
.PARAM kappa = 0.108
  * thermal conductivity
  * in W/m K
.PARAM heatCapacity = 4400
  * heat capacity per unit
  * volume in J/m^3 K
.PARAM hc = 50k
  * hc is the thermal conductivity
  * of the surface, units of W/m^2 K

*Electrical/Superconducting Parameters
.PARAM inductivity = {1.38p*sheetRes/Tc}
  * units of H/square
.PARAM  minSquares = 2
  * # of squares for min resistance
.PARAM maxSquares = 10
  * units of ohms/square
.PARAM psi={sheetRes*(Jc*thickness)**2 /(hc*(Tc-Tsub))}
  * psi is the Stekly parameter.
.PARAM f={sqrt(2/psi)}
  * quantify hysteresis of Ihs vs Isw
.PARAM Ihs={f*Isw}
  * hotspot current level

*Unitless Parameters
.PARAM gain={10}
  * factor photon signal gets multiplied by
.PARAM epsilon = {0.01}
  * provides margins for switching

* Maximum impedance of inductor, helps with solver convergence
.PARAM Ind_Z_max = 1e6
* ohms set to a few orders of magnitude above the largest expected
* impedance as calculated by Lind_x*2*pi*f_max where f_max = 0.31/t_rise_min
* is the maximum frequency in Hz based on the fastest dynamics of the
* circuit in seconds
* For normal nTron inductors (e.g. 200 squares of 20pH/sq), a rise time of
* 10ps gives about 1kohm max impedance, so 1e6 is acceptable

** MAIN CIRCUIT **

* channel Inductor
L1 drain N1 Flux=({Lind}/(2.0*cos(0.67*asin(0.6*x/{Isw}))-1))*x Rser = 1e-10 Rpar = {Ind_Z_max}

* photodetection-event current sensor
V1 N1 N2 0

* photodetection event current
B2 N2 N1 I=IF(I(V1)>0,gain*I(R3),-gain*I(R3))

* hotspot plateau current source
B1 N2 source I=IF(v(n2,source)>0,Ihs,-Ihs)

* hotspot limiting resistor
R2 N2 source {maxSquares*sheetRes}

* gate input resistor
R3 gate gatereturn 1

* current sense switch, detects photon arrival
* actuates in the i>0 range
W1 N2 N3 V1 currentSwitch OFF
* actuates in the i<0 range
W2 N3 N4 V1 negCurrentSwitch ON
.PARAM hiIthresh = {Isw}
.PARAM loIthresh = {Isw *(f+epsilon)}
* model goes normal above hiIthresh and resets below loIThresh
.model currentSwitch CSW(Ron=1e9 Roff=.01 It={(hiIthresh+loIthresh)/2} Ih={(hiIthresh-loIthresh)/2})
* model goes normal below -hiIthresh and resets above -loIthresh
.model negCurrentSwitch CSW(Ron=.01 Roff=1e9 It={-(hiIthresh+loIthresh)/2} Ih={(hiIthresh-loIthresh)/2})

* voltage sense switches
* actuates in the v>0 range
S1 N4 N5 N2 source voltageSwitch OFF
* actuates in the v<0 range
S2 N5 source N2 source negVoltageSwitch ON

.PARAM Vthresh={minSquares*sheetRes*Ihs}
.model voltageSwitch SW(Ron=1e9 Roff=.01 Vt={Vthresh} Vh=0)
.model negVoltageSwitch SW(Ron=.01 Roff=1e9 Vt={-Vthresh} Vh=0)
.ends nanowireBCF

*************************************
* nanowireDynamic                   *
*   full dynamic model of nanowire  *
* gate: 1 uA in 2 ps pulse=photon   *
*   only connect to current source  *
* drain: one terminal of channel    *
* source: other terminal of channel *
*************************************

.subckt nanowireDynamic gate gatereturn drain
+ source params: length=1u width=100n thickness=4n
+ sheetRes=400 Tc=10.5 Tsub=2 Jc=50G C=1
  *Jc at T=Tsub in units of amps/m2
  *sheetRes has units of ohms/sq
  *Tc is critical temp and has units of K
  *Tsub is substrate temp and has units of K
  *C is constrition factor

*Dimensions
.PARAM Lind={inductivity*length/width}
.PARAM squares={length/width}

*Thermal Parameters
.PARAM kappa = 0.108
  * thermal conductivity W/m K
.PARAM heatCapacity = 4400
  * heat capacity J/m^3 K
.PARAM hc = 50k
  * thermal conductivity of surface W/m^2 K

*Electrical/Superconducting Parameters
.PARAM inductivity = {1.38p*sheetRes/Tc}
  * H/square
.PARAM Rnorm = {sheetRes*squares}
  * units of ohms/square
.PARAM psi={sheetRes*(Jc*thickness)**2/
+(hc*(Tc-Tsub))}
  * psi is the Stekly parameter.
.PARAM vo={sqrt(hc*kappa/thickness)/
+heatCapacity}
  * vo is characteristic velocity

.PARAM Isw={Jc*width*thickness*C}
.PARAM Ihs={sqrt(2/psi)*Isw}
.PARAM rho={sheetRes*thickness}

*Unitless Parameters
.PARAM gain={10}
  * factor photon signal gets multiplied by
.PARAM delta={0.01}
  * a small offset value for avoiding
  * singularity in hotspot velocity
  * If delta is made too large, cooling will be suppressed and the
  * nanowire will be more likely to latch (in simulation).
  * It's important to note that delta is only for convenience and
  * assuring convergence of the model, and does not correspond to any
  * physical parameter or process in the device

* Maximum impedance of inductor, helps with solver convergence
.PARAM Ind_Z_max = 1e6
* ohms set to a few orders of magnitude above the largest expected
* impedance as calculated by Lind_x*2*pi*f_max where f_max = 0.31/t_rise_min
* is the maximum frequency in Hz based on the fastest dynamics of the
* circuit in seconds
* For normal nTron inductors (e.g. 200 squares of 20pH/sq), a rise time of
* 10ps gives about 1kohm max impedance, so 1e6 is acceptable

** MAIN CIRCUIT **

*channel inductor
Lc drain N_center Flux=({Lind}/(2.0*cos(0.67*
+asin(0.6*x/{Isw}))-1))*x Rser = 1e-12 Rpar = {Ind_Z_max}

* hotspot resistor (changed i(L1) to i(B1) on 2020-7-9)
B_hs N_center source V=IF(v(N_res)>0, v(N_res)*i(B_hs), 0)
  * v(N_res) is resistance of hotspot

*photon arrival sense resistor
R_gate gate gatereturn 1

** S/C SENSE SUBCIRCUIT **

**Superconducting to Resistive Transition

*dependent source used to store state
R_state N_state 0 1k
R_sc_n N_sc_n 0 1k
.machine 1p
.state sc 0
.state norm 1
.rule sc norm abs(I(Lc)) - {Isw} + {gain}*abs(i(R_gate)) > 0
.rule norm sc abs(I(Lc)) - {Ihs} < 0
.output (N_state) state
.output (N_sc_n) abs(I(Lc)) - {Isw} - {gain}*abs(i(R_gate)) > 0
.endmachine
* v(N_state) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **

B_hs_int N_res 0 V=sdt(if(v(N_state) & v(N_res)<{Rnorm},({2*sheetres*vo})/({width})*
+(({psi}*(i(Lc)/{Isw})**2-2)
+/((sqrt((({psi}*(i(Lc)/{Isw})**2-1)+abs({psi}*
+(i(Lc)/{Isw})**2-1))/2)+{delta}))),0)
+, 0, V(N_state)<0.5)

.ends nanowireDynamic
